US09108928B2
Under the nitrogen atmosphere, 10 g of 2-aminomalonamide and 19.7 mg of formic acid were added to 200 mL of 2-propanol. After heating to 80° C., 35.4 mL of triethyl orthoformate was added dropwise to the mixture over 5 minutes. Subsequently, the reaction mixture was stirred for 8 hours at 80° C. Color of the reaction liquid was pale blue when the reaction was completed. Subsequently, after cooling to 56° C., the reaction mixture was added with 10 mL of water followed by 8 mL of conc. hydrochloric acid. After cooling with water, the crystal was collected by filtration and then washed with 40 mL of acetone to give 16 g of 5-hydroxy-1H-imidazole-4-carboxamide hydrochloric acid salt dihydrate as a pale yellowish green crystal.

reactant | 2-aminomalonamide | 10 g | NC(C(=O)N)C(=O)N | C3H7N3O2
reactant | formic acid | 19.7 mg | C(=O)O | CH2O2
reactant | triethyl orthoformate | 35.4 mL | C(OCC)(OCC)OCC | C7H16O3
reactant | hydrochloric acid | 8 mL | Cl | ClH
solvent | water | O | H2O
solvent | water | 10 mL | O | H2O
solvent | 2-propanol | 200 mL | CC(C)O | C3H8O
product | 5-hydroxy-1H-imidazole-4-carboxamide hydrochloric acid salt dihydrate | 16 g | O.O.Cl.OC1=C(N=CN1)C(=O)N | InChI=1S/C4H5N3O2.ClH.2H2O/c5-3(8)2-4(9)7-1-6-2;;;/h1,9H,(H2,5,8)(H,6,7);1H;2*1H2
